US09145424B2
N-(3,5-Dichlorophenyl)benzenesulfonamide (TC-IV-145)
Benzenesulfonyl chloride (1.74 mL, 13.57 mmol) and DIEA (0.34 mL, 2.49 mmol) were added to a solution of 3,5-dichloroaniline (2.0 g, 12.34 mmol) in DCM (50 mL). The resulting solution was stirred at room temperature for 48 h, during which a precipitate was formed. The reaction mixture was then evaporated to dryness and purified by flash column chromatography (ethyl acetate/hexanes=1/9) to give TC-IV-145 (1.90 g, 51%) as a yellow solid.

reactant | Benzenesulfonyl chloride | 13.57 mmol, 1.74 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | DIEA | 2.49 mmol, 0.34 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,5-dichloroaniline | 12.34 mmol, 2.0 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(3,5-Dichlorophenyl)benzenesulfonamide | ClC=1C=C(C=C(C1)Cl)NS(=O)(=O)C1=CC=CC=C1 | C12H9Cl2NO2S
